US07297704B2
Ethyl 7-oxabicyclo[4.1.0]heptane-3-carboxylate (intermediate 1)
To a solution of ethyl cyclohex-3-ene-1-carboxylate (14.0 g, 90 mmol) in CH2Cl2 (350 mL) was added meta-chloroperbenzoic acid (18.9 g, 110 mmol) at 0° C. The reaction mixture was stirred at room temperature for 2.5 hours. After cooling to 0° C., the reaction was neutralized with aqueous Na2CO3 solution. The organic layer was collected and washed with water and brine, then was dried over MgSO4 and concentrated in vacuo to a light oil (17.8 g), which was used in the next reaction with further purification.

reactant | ethyl cyclohex-3-ene-1-carboxylate | 90 mmol, 14.0 g | C1(CC=CCC1)C(=O)OCC | C9H14O2
reactant | meta-chloroperbenzoic acid | 110 mmol, 18.9 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | CH2Cl2 | 350 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 7-oxabicyclo[4.1.0]heptane-3-carboxylate | C12CC(CCC2O1)C(=O)OCC | C9H14O3
